US09216999B2
(4-{[(tert-Butyldimethylsilyl)oxy]methyl}cyclohexyl)(7H-pyrrolo[2,3-d]pyrimidin-4-yl)methanone
Isopropylmagnesium chloride-lithium chloride complex-tetrahydrofuran solution (1.3 M, 39.2 mL, 51.0 mmol) was added dropwise to 4-iodo-7H-pyrrolo[2,3-d]pyrimidine (5.00 g, 20.4 mmol) obtained in Reference Synthetic Examplea 1 in tetrahydrofuran (50 mL) at −50° C., and stirred at −50° C. for 1 hour. The reaction mixture was mixed with 4-{[(tert-butyldimethylsilyl)oxy]methyl}-N-methoxy-N-methylcyclohexanecarboxamide (6.44 g, 20.4 mmol) in tetrahydrofuran (30 mL) at −50° C. and then stirred at room temperature for 23 hours. After addition of saturated aqueous ammonium chloride, the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1 (v/v)) to give the title compound as a colorless oil (5.14 g, yield 67%).

reactant | 4-iodo-7H-pyrrolo[2,3-d]pyrimidine | 20.4 mmol, 5.00 g | IC=1C2=C(N=CN1)NC=C2 | C6H4IN3
reactant | 4-{[(tert-butyldimethylsilyl)oxy]methyl}-N-methoxy-N-methylcyclohexanecarboxamide | 20.4 mmol, 6.44 g | [Si](C)(C)(C(C)(C)C)OCC1CCC(CC1)C(=O)N(C)OC | C16H33NO3Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 51.0 mmol, 1.3 M, 39.2 mL | O1CCCC1 | C4H8O
product | (4-{[(tert-Butyldimethylsilyl)oxy]methyl}cyclohexyl)(7H-pyrrolo[2,3-d]pyrimidin-4-yl)methanone | 5.14 g, yield 67% | [Si](C)(C)(C(C)(C)C)OCC1CCC(CC1)C(=O)C=1C2=C(N=CN1)NC=C2 | C20H31N3O2Si
